US04492702
(C) 7-(n-Butyl)-8-hydroxy-5-phenyl-pyrido[2,3-b]pyrazine-6(5H)one
A mixture of 3.5 g. of methyl 2-phenylamino-3-pyrazine carboxylate, 30 ml. of ethyl caproate and 4 g. of potassium tertiary butoxide is stirred and heated under nitrogen at 150°-160° for one and a half hours. The reaction mixture is poured on ice, extracted with ethyl acetate and the ethyl acetate extracts washed with water. The combined aqueous layers are acidified to pH 5.5 with dilute hydrochloric acid and the solid filtered. Recrystallization from ethyl acetate-hexane yields the product of this example as a colorless solid; m.p. 183°-185° C.

reactant | methyl 2-phenylamino-3-pyrazine carboxylate | C1(=CC=CC=C1)NC1=NC=CN=C1C(=O)OC | C12H11N3O2
reactant | ethyl caproate | C(CCCCC)(=O)OCC | C8H16O2
reactant | potassium tertiary butoxide | CC(C)([O-])C.[K+]
product | 7-(n-Butyl)-8-hydroxy-5-phenyl-pyrido[2,3-b]pyrazine-6(5H)one | C(CCC)C1=C(C=2C(=NC=CN2)N(C1=O)C1=CC=CC=C1)O | C17H17N3O2
